US07435822B2
3-[(3-Methoxy-phenyl)-thiophen-3-yl-methylene] -8-(2-methyl-benzyl)-8-aza-bicyclo[3.2.1]octane
To 100 mg (321 μmol) of 3-[(3-Methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane in 1 mL of trimethyl orthoformate was added 56 μL (482 μmol) of 2-methylbenzaldehyde, 156 mg (739 μmol) of sodium triacetoxyborohydride, 34 μL of glacial acetic acid at room temperature. The reaction mixture was allowed to stir 10 days at room temperature. After 10 days, the crude was diluted with 1 mL of DCM and 0.5 mL of MeOH. The diluted solution was filtered and washed with 1 mL of DCM. The combined filtrates were concentrated. The concentrated sample was purified using Biotage NH2-silica column using a gradient of 5% ethyl acetate/hexane to 40% ethyl acetate/hexane. The eluent was evaporated to yield 133 mg of the title compound as a white solid; MS m/z (MH+) 416.

reactant | 3-[(3-Methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane | 321 μmol, 100 mg | COC=1C=C(C=CC1)C(=C1CC2CCC(C1)N2)C2=CSC=C2 | C19H21NOS
reactant | 2-methylbenzaldehyde | 482 μmol, 56 μL | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | sodium triacetoxyborohydride | 739 μmol, 156 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 34 μL | C(C)(=O)O | C2H4O2
solvent | trimethyl orthoformate | 1 mL | C(OC)(OC)OC | C4H10O3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-[(3-Methoxy-phenyl)-thiophen-3-yl-methylene] -8-(2-methyl-benzyl)-8-aza-bicyclo[3.2.1]octane | 133 mg | COC=1C=C(C=CC1)C(=C1CC2CCC(C1)N2CC2=C(C=CC=C2)C)C2=CSC=C2 | C27H29NOS
